US07528134B2
2-bromo-N-cyclohexylacetamide
To a solution of bromoacetyl chloride (5.50 mL, 66.9 mmol) in tetrahydrofuran (120 mL) at 0° C. was added a mixture of 4-dimethylaminepyridine (2.80 g, 22.9 mmol) and cyclohexylamine (5.00 mL, 43.7 mmol) in tetrahydrofuran (60 mL). The mixture was warmed to room temperature and stirred an additional 18 hours. The reaction was quenched with water and extracted with dichloromethane. The organic phase was dried (sodium sulfate), filtered, and the filtrate concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel (elution with 10% ethyl acetate:hexanes) to provide of the title compound (25% yield) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 1.18 (m, 5H), 1.64 (m, 5H), 3.52 (m, 1H), 3.99 (s, 2H), 8.04 (br d, 1H, J=7.1 Hz); MS (DCI/NH3) m/e 237/239 (M+NH4)+.

reactant | bromoacetyl chloride | 66.9 mmol, 5.50 mL | BrCC(=O)Cl | C2H2BrClO
reactant | cyclohexylamine | 43.7 mmol, 5.00 mL | C1(CCCCC1)N | C6H13N
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminepyridine | 22.9 mmol, 2.80 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 2-bromo-N-cyclohexylacetamide | 25% yield | BrCC(=O)NC1CCCCC1 | C8H14BrNO
